US05310743
d) (6R)-1,6-Dibenzyl-2,4-piperidinedione
A solution of 106.1 g (0.301 mol of methyl (6R(-1,6-dibenzyl-2,4-dioxo3-piperidine carboxylate in 298 ml of toluene and 445 ml of 10% strength (vol/vol) acetic acid is heated at 80° for 21/2 hours. The reaction mixture is cooled to room temperature, neutralised by adding 48 g of solid sodium carbonate while cooling in ice-water, the phases are separated, and the aqueous phase is extracted once more with 300 ml of ethyl acetate. The combined organic phases are washed with water, then with brine dried over sodium sulfate and evaporated to dryness. The resulting oil is crystallised from ether, resulting in the title compound.

reactant | 1,6-dibenzyl-2,4-dioxo3-piperidine carboxylate | C(C1=CC=CC=C1)N1C(C(C(CC1CC1=CC=CC=C1)=O)C(=O)[O-])=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 298 ml | C1(=CC=CC=C1)C | C7H8
product | (6R)-1,6-Dibenzyl-2,4-piperidinedione | C(C1=CC=CC=C1)N1C(CC(C[C@H]1CC1=CC=CC=C1)=O)=O | C19H19NO2
